US07468370B2
{1-[8-(3-cyano-phenyl)-[1,7]naphthyridin-6-yl]-piperidin-4-yloxy}-acetic acid
TFA (1 ml) is added to a solution of {1-[8-(3-cyano-phenyl)-[1,7]naphthyridin-6-yl]-piperidin-4-yloxy}-acetic acid tert-butyl ester (200 mg, 0.45 mmol) in CH2Cl2 (2 ml) at 0° C. The reaction mixture is stirred at 0° C. for 10 minutes then at room temperature for 1.5 hours and is then concentrated. The residue is partitioned between ethyl acetate and water and the aqueous layer is adjusted to pH 5 with 1M KOH. The aqueous layer is extracted with ethyl acetate (×3) and the combined ethyl acetate extracts are dried (MgSO4), filtered and concentrated. Purification by chromatography on silica gel, eluting with 1% MeOH in CH2Cl2 gives the product. MS (ES+) Observed [M+H]+3 89.05

reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | {1-[8-(3-cyano-phenyl)-[1,7]naphthyridin-6-yl]-piperidin-4-yloxy}-acetic acid tert-butyl ester | 0.45 mmol, 200 mg | C(C)(C)(C)OC(COC1CCN(CC1)C=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)C#N)=O | C26H28N4O3
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | {1-[8-(3-cyano-phenyl)-[1,7]naphthyridin-6-yl]-piperidin-4-yloxy}-acetic acid | C(#N)C=1C=C(C=CC1)C=1N=C(C=C2C=CC=NC12)N1CCC(CC1)OCC(=O)O | C22H20N4O3
